US05843973
N-(5-Nitroxymethyl-2-piperidinylmethyl)-(4R)-2-oxothiazolidin-4-yl-carboxamide hydrochloride (Exemplary Compound No. 1-1040)
In 40 ml of dry tetrahydrofuran and 20 ml of dry dimethylformamide were suspended 224 mg of (4R)-2-oxo-4-thiazolidinecarboxylic acid and 350 mg of 5-nitroxymethyl-2-piperidylmethylamine dihydrochloride, and 0.94 ml of triethylamine and 0.188 ml of diethyl cyanophosphate were added thereto with stirring under ice-cooling, and the resulting mixture was stirred at room temperature for 5 hours. To the reaction mixture were added 0.463 ml of di-t-butyl dicarbonate and a catalytic amount of 4-dimethylaminopyridine, and the resulting mixture was stirred at room temperature for 1 hour. Further, 2.0 ml of di-t-butyl dicarbonate was added thereto and the mixture was stirred at 30° C. for 1.5 hours. The insolubles were filtered and the solvent was distilled off under reduced pressure. The residue was purified by using silica gel column chromatography (eluting solvent: cyclohexane/ethyl acetate=2/3-1/6) and the fraction having an Rf of 0.14 by thin layer chromatography (developing solvent: cyclohexane/ethyl acetate=1/2) was collected by separation. The thus obtained foam was dissolved in 5.0 ml of 4N hydrochloric acid-dioxane and the mixture was stirred at room temperature for 30 minutes. To the mixture was added 20 ml of ether, and the crystal was collected by filtration to obtain 40 mg of the desired compound as a pale yellow crystalline solid.

reactant | (4R)-2-oxo-4-thiazolidinecarboxylic acid | 224 mg | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | 5-nitroxymethyl-2-piperidylmethylamine dihydrochloride | 350 mg | Cl.Cl.O([N+](=O)[O-])CC1CCC(NC1)CN
reactant | diethyl cyanophosphate | 0.188 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | di-t-butyl dicarbonate | 0.463 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 2.0 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(5-Nitroxymethyl-2-piperidinylmethyl)-(4R)-2-oxothiazolidin-4-yl-carboxamide hydrochloride | 40 mg | Cl.O([N+](=O)[O-])CC1CCC(NC1)CNC(=O)[C@H]1NC(SC1)=O | InChI=1S/C11H18N4O5S.ClH/c16-10(9-6-21-11(17)14-9)13-4-8-2-1-7(3-12-8)5-20-15(18)19;/h7-9,12H,1-6H2,(H,13,16)(H,14,17);1H/t7?,8?,9-;/m0./s1
